US07576086B2
A mixture of 4-methoxybenzylchlorine and piperazine was treated according to the general preparation 1 to obtain N-(4-methoxybenzyl) piperazine dihydrochloride, yield 75%, mp. 250-252° C. The N1-(4-methoxybenzyl)-N4-phenacyl piperazine dihydrochloride (0.5 g, 1.23 mmol) could be preparated according to the general preparation 2, and then reduced according to the general preparation 3 to obtain 0.38 g of the title compound, yield 77.55%, mp 244-246° C.).

reactant | 4-methoxybenzylchlorine | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | piperazine | N1CCNCC1 | C4H10N2
product | N-(4-methoxybenzyl) piperazine dihydrochloride | yield 75% | Cl.Cl.COC1=CC=C(CN2CCNCC2)C=C1 | InChI=1S/C12H18N2O.2ClH/c1-15-12-4-2-11(3-5-12)10-14-8-6-13-7-9-14;;/h2-5,13H,6-10H2,1H3;2*1H
